US04714838
1-Methyl-3-phenylurea was prepared by the dropwise addition of methylisocyanate (6 ml, 0.1 mole) over three hours to an ether solution (100 ml) containing aniline (9 ml, 0.1 mole) at 4° C. with stirring. 1-Methyl-3-phenylurea precipitated as purple crystals which were recrystallized from ethanol, m.p. 150° C.

reactant | methylisocyanate | 0.1 mole, 6 ml | CN=C=O | C2H3NO
reactant | aniline | 0.1 mole, 9 ml | NC1=CC=CC=C1 | C6H7N
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-Methyl-3-phenylurea | CNC(=O)NC1=CC=CC=C1 | C8H10N2O
